US09227971B2
Step 2: Preparation of di-tert-butyl 1-acetyl-2-(5-bromopyridin-2-yl)hydrazine-1,2-dicarboxylate
(Boc)2O (8.29 mL, 36.8 mmol) was added to a slurry of N′-(5-bromopyridin-2-yl)acetohydrazide (2.65 g, 11.5 mmol) and DMAP (35.5 mg, 0.288 mmol) in CH3CN (18 mL). After an hour, the solution was diluted with Et2O and sequentially washed with 1M KHSO4, saturated aqueous NaHCO3, and brine. The organic layer was dried with Na2SO4, and the solvent was removed under vacuum. The resulting residue was purified by a SiO2 column (5-10% Et2O/hexane) to afford the titled compound as clear syrup (4.80 g). (Modified synthesis of O. Loog, et al., Synthesis, 2000, 11, 1591-1597).

reactant | (Boc)2O | 36.8 mmol, 8.29 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N′-(5-bromopyridin-2-yl)acetohydrazide | 11.5 mmol, 2.65 g | BrC=1C=CC(=NC1)NNC(C)=O | C7H8BrN3O
catalyst | DMAP | 0.288 mmol, 35.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 18 mL | CC#N | C2H3N
solvent | Et2O | CCOCC | C4H10O
product | di-tert-butyl 1-acetyl-2-(5-bromopyridin-2-yl)hydrazine-1,2-dicarboxylate | 4.80 g | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=NC=C(C=C1)Br)C(=O)OC(C)(C)C | C17H24BrN3O5
